* Z:\mnt\design.r\spice\examples\1500.asc
L1 N001 N002 33µ
V1 IN 0 2.5
R1 OUT N005 204K
R2 N005 0 127K
C1 OUT 0 220µ Rser=0.05
R3 N007 N006 100K
C2 N006 0 2000p
C3 N009 0 1000p
R4 N009 0 1Meg
XU1 IN N007 IN N001 MP_01 0 0 N002 0 N003 N004 N009 N008 N005 LT1500
D1 N002 OUT 1N5818
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 3m startup
.lib LT1500.sub
.backanno
.end
